US04292431
To a suspension of 2.16 g (0.01 mol) of 4-carbethoxy-5-phenylimidazole in 10 ml of water was added 0.8 g (0.02 mol) of sodium hydroxide. The mixture was heated to reflux for 2 hours. To this mixture was added 4 ml of ~ 37% aqueous formaldehyde solution, and the resultant mixture was heated at 60°-65° C. for 8 hours, with stirring. After completion of the reaction, the reaction mixture was cooled and the resultant solid was recovered by filtration, washed with water and recrystallized from ethyl acetate and filtered to give 1.18 g of 4-hydroxymethyl-5-phenylimidazole, m.p. 175°-176° C. Yield 68%.

reactant | 4-carbethoxy-5-phenylimidazole | 0.01 mol, 2.16 g | C(=O)(OCC)C=1N=CNC1C1=CC=CC=C1 | C12H12N2O2
reactant | sodium hydroxide | 0.02 mol, 0.8 g | [OH-].[Na+]
reactant | formaldehyde | 4 ml | C=O | CH2O
solvent | water | 10 ml | O | H2O
product | 4-hydroxymethyl-5-phenylimidazole | 1.18 g, Yield 68% | OCC=1N=CNC1C1=CC=CC=C1 | C10H10N2O
